US04332829
Preparation of Methylthiomethyl 2-Methyl-2-pentenoate
This product was prepared according to the procedure described in Example 1, by reacting 2-methyl-2-pentenoic acid with chloromethyl methyl sulfide in the presence of one equivalent of triethylamine; b.p. 56°-57° C./2 mm Hg, nD20 1.4861.

reactant | 2-methyl-2-pentenoic acid | CC(C(=O)O)=CCC | C6H10O2
reactant | chloromethyl methyl sulfide | CSCCl | C2H5ClS
reactant | triethylamine | one equivalent | C(C)N(CC)CC | C6H15N
product | Methylthiomethyl 2-Methyl-2-pentenoate | CC(C(=O)OCSC)=CCC | C8H14O2S
